US07214802B2
A solution of 3-hydrazino-4-methyl benzoic acid (See U.S. provisional application 60/570,284) (1.0 g, 4.93 mmol), malonaldehyde(bismethylacetate) (0.82 mL, 4.93 mmol), and concentrated HCl (1 mL) in EtOH (20 mL) was heated to reflux for 4 h. After cooling to room temperature, the reaction was poured into ice water, neutralized with 2N NaOH, and extracted with CH2Cl2 (3×). The organic layers were dried over Na2SO4, filtered and concentrated to afford 4-methyl-3-pyrazol-1-yl-benzoic acid ethyl ester (536 mg, 47%) as a yellow oil. A solution of the pyrazole (536 mg, 2.33 mmol) and bromine (0.167mL, 3.26 mmol) in CHCl3 (15 mL) was refluxed for 4.5 h then cooled and concentrated. Chromatography (1:1 EtOAc/hexanes) yielded 3-(4-bromo-pyrazol-1-yl)-4-methyl-benzoic acid ethyl ester (0.739 g, 99%). The bromopyrazole (366 mg, 1.18 mmol) was dissolved in dioxane (2 mL) and flushed with N2. 1-Methyl-5-tributylstannanyl-1H-imidazole (366 mg, 0.986 mmol) was added to the reaction flask in dioxane (0.5 mL) then the flask was purged with N2. After Pd(PPh3)4 (85 mg, 0.074 mmol) was added, the reaction was heated to 100° C. in a sealed tube. The reaction mixture was stirred with a 10% KF solution for 30 min then diluted with EtOAc. The layers were separated and the aqueous layer extracted with EtOAc (3×). The organic layers were combined, dried over Na2SO4, and concentrated. The resulting residue was purified by chromatography on silica gel (5% MeOH/CH2Cl2) to give 4-methyl-3-[4-(3-methyl-3H-imidazol-4-yl)-pyrazol-1-yl]-benzoic acid ethyl ester (81 mg, 22%).

reactant | 3-hydrazino-4-methyl benzoic acid | 4.93 mmol, 1.0 g | N(N)C=1C=C(C(=O)O)C=CC1C | C8H10N2O2
reactant | malonaldehyde(bismethylacetate) | 4.93 mmol, 0.82 mL | CC(C(=O)O)C.C(CC=O)=O
reactant | HCl | 1 mL | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 4-methyl-3-pyrazol-1-yl-benzoic acid ethyl ester | 536 mg, 47% | C(C)OC(C1=CC(=C(C=C1)C)N1N=CC=C1)=O | C13H14N2O2
